US08114902B2
(5-2) Synthesis of 2-amino-2-{2-[2′-fluoro-4′-(3-methylphenylthio)biphenyl-4-yl]ethyl}propane-1,3-diol hydrochloride
N-[5-{2-[2′-Fluoro-4′-(3-methylphenylthio)biphenyl-4-yl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl}acetamide (187 mg) was dissolved in methanol (4 mL), concentrated hydrochloric acid (2 mL) was added, and the mixture was stirred at 70° C. for 7 hr. The reaction mixture was concentrated, and the residual crude crystals were suspended in ethyl acetate and collected by filtration to give the title compound (52 mg) as white crystals.

reactant | N-[5-{2-[2′-Fluoro-4′-(3-methylphenylthio)biphenyl-4-yl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl}acetamide | 187 mg | FC1=C(C=CC(=C1)SC1=CC(=CC=C1)C)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O | C29H32FNO3S
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | 2-amino-2-{2-[2′-fluoro-4′-(3-methylphenylthio)biphenyl-4-yl]ethyl}propane-1,3-diol hydrochloride | 52 mg | Cl.NC(CO)(CO)CCC1=CC=C(C=C1)C1=C(C=C(C=C1)SC1=CC(=CC=C1)C)F | InChI=1S/C24H26FNO2S.ClH/c1-17-3-2-4-20(13-17)29-21-9-10-22(23(25)14-21)19-7-5-18(6-8-19)11-12-24(26,15-27)16-28;/h2-10,13-14,27-28H,11-12,15-16,26H2,1H3;1H
